US08470847B2
1.2: 2-(Aminoethyl)-6-chloronicotinic acid fluoride
2 ml (24.8 mmol) of pyridine and 4.2 ml (49.8 mmol) of 2,4,6-trifluorotriazine are added to a suspension of 5.0 g (24.8 mmol) of 2-(aminoethyl)-6-chloronicotinic acid in 125 ml of dichloromethane. The mixture is stirred for 3 hours at ambient temperature and then filtered. The solid is rinsed with 50 ml of dichloromethane and the filtrate is washed twice with 60 ml of ice-cold water. The organic phase is dried over Na2SO4 and the solvent is evaporated off under reduced pressure. 5.01 g of product are obtained in the form of an orange oil. Yield=99%.

reactant | pyridine | 24.8 mmol, 2 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,4,6-trifluorotriazine | 49.8 mmol, 4.2 ml | FN1NC(=CC(=N1)F)F | C3H2F3N3
reactant | 2-(aminoethyl)-6-chloronicotinic acid | 24.8 mmol, 5.0 g | NCCC1=C(C(=O)O)C=CC(=N1)Cl | C8H9ClN2O2
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
product | 2-(Aminoethyl)-6-chloronicotinic acid fluoride | 5.01 g, Yield=99% | NCCC1=C(C(=O)F)C=CC(=N1)Cl | C8H8ClFN2O
